US08563599B2
2-Hydroxy-4-methoxymethyloxy-benzaldehyde
Oven-dried potassium carbonate (1.38 g, 10 mmol) was added to an ice cooled solution of 2,4-dihydroxy-benzaldehyde (1.38 g, 10 mmol) in 10 mL of acetone. MOMCl (1.54 mL, 20 mmol) was added drop-wise and the mixture was stirred at 0° C. for one hour, after which it was gradually allowed to come to RT. The reaction was further stirred for 24 hours at RT and then poured into ice water with vigorous stirring. A Buff colored solid precipitated. The solid was filtered, dried and recrystallized from MeOH:DCM (ca. 30:5 mL) to obtain 1.31 g (72%) of white solid: mp 52-53° C. [Lit.(65) 50-51° C.]; TLC Rf0.43 in hexanes:EtOAc (2:1), 1H NMR (400 MHz, CDCl3) δ 11.38 (s, 1H, OH), 9.74 (s, 1H, CHO), 7.46-7.44 (d, 1H, J=8.4 Hz, Ar—H6), 6.66-6.64 (dd, 1H, 2J=8.4 Hz, 3J=2 Hz, Ar—H5), 6.60 (d, 1H, 3J=2 Hz), 5.24 (s, 2H, O—CH2—O), 3.48 (s, 3H, OCH3). 13C NMR (100 MHz, CDCl3) δ 194.8, 164.5, 164.4, 135.6, 116.2, 109.3, 103.6, 94.3, 56.7.

reactant | potassium carbonate | 10 mmol, 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,4-dihydroxy-benzaldehyde | 10 mmol, 1.38 g | OC1=C(C=O)C=CC(=C1)O | C7H6O3
reactant | MOMCl | 20 mmol, 1.54 mL | C(OC)Cl | C2H5ClO
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | 2-Hydroxy-4-methoxymethyloxy-benzaldehyde | 1.31 g, 72% | OC1=C(C=O)C=CC(=C1)OCOC | C9H10O4
